US05977134
Step 1: Preparation of 7-bromo-N-Boc-1,2,3,4-tetrahydroisoquinoline
7-Bromo-1,2,3,4-tetrahydroisoquinoline (1.58 g, 7.45 mmol) in DMF (30 mL) was treated with triethylamine (1.04 mL, 7.45 mmol) and (Boc)2O (1.75 g, 8 mmol) for 16 h. The DMF was removed in vacuo and the residue partitioned between water and EtOAc. Extracted with EtOAc (3×), washed with saturated NaHCO3 then brine, dried and evaporated. Chromatography of the residue (silica gel; hexane/EtOAc 9:1) afforded the title compound as an oil.

reactant | 7-Bromo-1,2,3,4-tetrahydroisoquinoline | 7.45 mmol, 1.58 g | BrC1=CC=C2CCNCC2=C1 | C9H10BrN
reactant | triethylamine | 7.45 mmol, 1.04 mL | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | 8 mmol, 1.75 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 7-bromo-N-Boc-1,2,3,4-tetrahydroisoquinoline | BrC1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C | C14H18BrNO2
